US07211572B2
To a solution of 5-amino-3-benzyloxy-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (55 mg) in chloroform (1 ml) were added, triethylamine (0.033 ml) and propanoyl chloride (0.012 ml) at 0° C. After stirring at the same temperature for 20 min, aqueous sodium hydrogen carbonate solution was added and the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was dried, concentrated and purified by silica gel thin layer chromatography (chloroform:methanol=10:1) to give N-[5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]propionamide (55 mg). By subjecting 51 mg of the obtained compound to a reaction operation similar to that in Example 187, Step 2, N-[2-(3-chlorobenzyl)-9-hydroxy-1,8-dioxo-1,8-dihydro-2H-pyrido[1,2-a]pyrazin-7-yl]propionamide (27 mg) was obtained.

reactant | 5-amino-3-benzyloxy-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 55 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)N)CC(OC)OC)C=CC1 | C24H26ClN3O5
reactant | triethylamine | 0.033 ml | C(C)N(CC)CC | C6H15N
reactant | propanoyl chloride | 0.012 ml | C(CC)(=O)Cl | C3H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]propionamide | 55 mg | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)NC(CC)=O)=O | C27H30ClN3O6
